US06211234B1
A stirred solution of 1-(3-benzyloxyphenyl)-2-phenylethanone in tetrahydrofuran (30 mL) is treated with a solution of lithium diisopropylamine in tetrahydrofuran (5.5 mL, 2 M) at −35° C. under nitrogen. The resulting clear yellow solution is cooled to −70° C. and treated with a solution of bromine (1.6 g) in dichloromethane (5 mL). Stirring is continued at −70° C. and treated with a solution of bromine (1.6 g) in dichloromethane (5 mL). Stirring is continued at −70° C. for 5 minutes. Water (30 mL) is added and the reaction mixture allowed to warm to room temperature. The reaction mixture is extracted twice with ether (50 mL), the combined extracts are washed with brine (40 mL), dried over magnesium sulphate and evaporated to give (RS)-1-(3-benzyloxyphenyl)-2-bromo-2-phenylethanone (3.92 g) in the form of a yellow oil.

reactant | 1-(3-benzyloxyphenyl)-2-phenylethanone | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CC1=CC=CC=C1)=O | C21H18O2
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | bromine | 1.6 g | BrBr | Br2
reactant | bromine | 1.6 g | BrBr | Br2
reactant | Water | 30 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 M, 5.5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (RS)-1-(3-benzyloxyphenyl)-2-bromo-2-phenylethanone | 3.92 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(C1=CC=CC=C1)Br)=O | C21H17BrO2
